US04053599
A mixture of 2-chloroacetyl-1-(2-fluorobenzyl)pyrrole Example 1a, N-methylpiperazine and triethylamine in methaol is treated by the procedure described in Example 1b to produce 1-(2-fluorobenzyl)-2-[α-(4-methylpiperazino)-acetyl]pyrrole.

reactant | 2-chloroacetyl-1-(2-fluorobenzyl)pyrrole | ClCC(=O)C=1N(C=CC1)CC1=C(C=CC=C1)F | C13H11ClFNO
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(2-fluorobenzyl)-2-[α-(4-methylpiperazino)-acetyl]pyrrole | FC1=C(CN2C(=CC=C2)C(CN2CCN(CC2)C)=O)C=CC=C1 | C18H22FN3O
